US08975276B2
7-(5,8-dimethyl-[1,2,4]triazolo[1,5-a]pyrazin-2-yl)-2-phenylimidazo[1,2-a]pyridine-6-carbonitrile
A 2-dram pressure rated scintillation vial was charged with 2-(6-bromo-2-phenylimidazo[1,2-a]pyridin-7-yl)-5,8-dimethyl-[1,2,4]triazolo[1,5-a]pyrazine (20 mg, 0.048 mmol) and suspended in DMF (477 mL). To that stirring solution was added zinc cyanide (5.60 mg, 0.048 mmol). The vial was sealed and degassed using dry argon and sonication for 1 minute. Tetrakis(triphenylphosphine)palladium(0) (16.5 mg, 0.014 mmol) was then added in one portion. The vial was resealed, flushed with argon, and placed in a reaction block preheated to 90° C. After 1.25 hours, LCMS showed complete conversion of starting material to a major peak with the desired product (m/z=366 [M+H]+). Upon cooling, a solid began to form. The crude material was purified by HPLC method 10. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.55 (1H, s), 8.65 (1H, s), 8.46 (1H, s), 8.14 (1H, s), 8.09 (2H, d, J=7.28 Hz), 7.50-7.56 (2H, m), 7.40-7.46 (1H, m), 2.88 (3H, s), 2.78 (3H, s). Mass found 366 [M+H]+.

reactant | 2-(6-bromo-2-phenylimidazo[1,2-a]pyridin-7-yl)-5,8-dimethyl-[1,2,4]triazolo[1,5-a]pyrazine | 0.048 mmol, 20 mg | BrC=1C(=CC=2N(C1)C=C(N2)C2=CC=CC=C2)C2=NN1C(C(=NC=C1C)C)=N2 | C20H15BrN6
reactant | DMF | 477 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.048 mmol, 5.60 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.014 mmol, 16.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(5,8-dimethyl-[1,2,4]triazolo[1,5-a]pyrazin-2-yl)-2-phenylimidazo[1,2-a]pyridine-6-carbonitrile | CC1=CN=C(C=2N1N=C(N2)C2=CC=1N(C=C2C#N)C=C(N1)C1=CC=CC=C1)C | C21H15N7
